US08541421B2
N-(3-Cyano-5-methylthiophen-2-ylcarbamoyl)benzamide
Prepared as in Example 1a from 2-amino-5-methylthiophene-3-carbonitrile and benzoyl isocyanate as a white solid. 1H NMR (400 MHz, DMSO-d6) δ2.36 (d, J=1.2 Hz, 3H), 6.89 (d, J=1.2 Hz, 1H), 7.55 (t, J=8.0 Hz, 2H), 7.66 (d, J=7.2 Hz, 1H), 8.03-8.01 (m, 2H), 11.60 (brs, 1H), 12.08 (bs, 1H). MS 286 (MH+).

reactant | 2-amino-5-methylthiophene-3-carbonitrile | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | N-(3-Cyano-5-methylthiophen-2-ylcarbamoyl)benzamide | C(#N)C1=C(SC(=C1)C)NC(=O)NC(C1=CC=CC=C1)=O | C14H11N3O2S
